US09085540B2
A mixture of tert-butyl {3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]phenyl}carbamate (500 mg), 4-bromophenol (440 mg), potassium carbonate (440 mg), and N-methylpyrrolidone (5 mL) was reacted at 100° C. for 4 hours. The reaction mixture was left to be cooled, and then water-saturated brine (1:1) was added thereto, followed by extraction with ethyl acetate. Then, the organic phase was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-95:5, hexane:ethyl acetate=7:3-3:7) to obtain tert-butyl (3-{[6-(4-bromophenoxy)-5-carbamoyl-3-ethylpyrazin-2-yl]oxy}phenyl)carbamate (599 mg) as a colorless solid.

reactant | tert-butyl {3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]phenyl}carbamate | 500 mg | C(N)(=O)C=1N=C(C(=NC1Cl)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O)CC | C18H21ClN4O4
reactant | 4-bromophenol | 440 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 440 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | tert-butyl (3-{[6-(4-bromophenoxy)-5-carbamoyl-3-ethylpyrazin-2-yl]oxy}phenyl)carbamate | 599 mg | BrC1=CC=C(OC2=C(N=C(C(=N2)OC=2C=C(C=CC2)NC(OC(C)(C)C)=O)CC)C(N)=O)C=C1 | C24H25BrN4O5
